US05688815
At room temperature and under normal pressure, 0.95 g of 2-benzoyl-3-benzyloxy-1-(2-benzyloxy-ethyl)-1H-pyridin-4-one is hydrogenated in methanol until 2 mol of H2 per mol of starting material have been taken up. The catalyst is removed and the reaction mixture is concentrated by evaporation using a rotary evaporator. The residue is chromatographed on 20 g of silica gel. A mixture of ethyl acetate and ethanol in a ratio of 95:5 is used as eluant. With fraction sizes of 17 ml, the product in fractions 6-20 is eluted. Recrystallisation from ethanol yields 2-benzoyl-3-hydroxy-1-(2-hydroxy-ethyl)-1H-pyridin-4-one in the form of colourless crystals. M.p.: 195°-200° C.

reactant | 2-benzoyl-3-benzyloxy-1-(2-benzyloxy-ethyl)-1H-pyridin-4-one | 0.95 g | C(C1=CC=CC=C1)(=O)C=1N(C=CC(C1OCC1=CC=CC=C1)=O)CCOCC1=CC=CC=C1 | C28H25NO4
solvent | methanol | CO | CH4O
product | 2-benzoyl-3-hydroxy-1-(2-hydroxy-ethyl)-1H-pyridin-4-one | C(C1=CC=CC=C1)(=O)C=1N(C=CC(C1O)=O)CCO | C14H13NO4
